US06599917B1
c) 5-(α-Acetoxybenzyl)3-phenyl-6-methoxypyridazine
5.0 ml of acetic acid anhydride was slowly added dropwise into a solution of 1.39 g of 5-(α-hydroxybenzyl)-3-phenyl-6-methoxypyridazine, 174 mg of 4-dimethylaminopyridine and 1.0 ml of triethylamine in 10 ml of dichloromethane under ice-cooling. After stirring at room temperature for one hour, water was added to the reaction solution. After extracting with dichloromethane, the organic phase was washed with brine. After removing the solvent, the residue was subjected to NH-silica gel (Fuji Silicia) and eluted with ethyl acetate, to give 1.58 g of the target compound.

reactant | acetic acid anhydride | 5.0 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | 5-(α-hydroxybenzyl)-3-phenyl-6-methoxypyridazine | 1.39 g | OC(C1=CC=CC=C1)C=1C=C(N=NC1OC)C1=CC=CC=C1 | C18H16N2O2
reactant | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
catalyst | 4-dimethylaminopyridine | 174 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 5-(α-Acetoxybenzyl)3-phenyl-6-methoxypyridazine | 1.58 g | C(C)(=O)OC(C1=CC=CC=C1)C=1C=C(N=NC1OC)C1=CC=CC=C1 | C20H18N2O3
